US04668823
265 ml of a 1.8 Molar titrated solution of 477 mmoles of isobutylmagnesium iodide in ether was added dropwise to a stirred solution of 85.35 g (476.8 mmoles) of phenyldichlorophosphine in 750 ml of anhydrous ether, maintained at -25° C. under an inert atmosphere. After stirring for 15 minutes at a temperature of -25° C., the reaction mixture was allowed to gradually warm to a temperature of 0° C. 308 ml of a 2.01 Molar solution of 620 mmoles of phenylmagnesium bromide in ether was added dropwise at a temperature of between 0° C. and +10° C., then the solution was warmed to reflux for one-half hour. The mixture was then hydrolyzed. Distillation yielded an impure isobutyldiphenylphosphine. 31P-NMR δ=-20.66 ppm (relative intensity 999.96), δ=-5.88 ppm (relative intensity 26.64 probably triphenylphosphine), δ=-34.23 ppm (relative intensity 74.75, probably diisobutylphenylphosphine), and δ=-60.57 ppm (relative intensity 123.65, probably (phenyl)(i-butyl)PH), BP=97°-101° C. at 0.15 torr.

reactant | isobutylmagnesium iodide | 477 mmoles | C(C(C)C)[Mg]I
reactant | phenyldichlorophosphine | 476.8 mmoles, 85.35 g | C1(=CC=CC=C1)P(Cl)Cl | C6H5Cl2P
reactant | phenylmagnesium bromide | 620 mmoles | C1(=CC=CC=C1)[Mg]Br
solvent | ether | CCOCC | C4H10O
solvent | ether | 750 ml | CCOCC | C4H10O
product | isobutyldiphenylphosphine | C(C(C)C)P(C1=CC=CC=C1)C1=CC=CC=C1 | C16H19P
